US05750699
To a solution of 3-bromo-8-[2,6-dichloro-3-(N-glycyl-N-methylamino)benzyloxy]-2-methylimidazo[1,2-a]pyridine (100 mg) in methylene chloride (2 ml) were added pyridine (17 mg), 4-dimethylaminopyridine (10 mg) and acetic anhydride (32 mg), and the mixture was stirred for 1.5 hours. The mixture was washed with water twice and brine, dried over magnesium sulfate and concentrated in vacuo. The residue was purified by silica gel column chromatography (methylene chloride:methanol=5:1, V/V) to give 8-[3-[N-(acetylglycyl)-N-methylamino]-2,6-dichlorobenzyloxy]-3-bromo-2-methylimidazo[1,2-a]pyridine (74 mg).

reactant | 3-bromo-8-[2,6-dichloro-3-(N-glycyl-N-methylamino)benzyloxy]-2-methylimidazo[1,2-a]pyridine | 100 mg | BrC1=C(N=C2N1C=CC=C2OCC2=C(C(=CC=C2Cl)N(C)C(CN)=O)Cl)C | C18H17BrCl2N4O2
reactant | pyridine | 17 mg | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 32 mg | C(C)(=O)OC(C)=O | C4H6O3
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 10 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 8-[3-[N-(acetylglycyl)-N-methylamino]-2,6-dichlorobenzyloxy]-3-bromo-2-methylimidazo[1,2-a]pyridine | 74 mg | C(C)(=O)NCC(=O)N(C)C=1C(=C(COC=2C=3N(C=CC2)C(=C(N3)C)Br)C(=CC1)Cl)Cl | C20H19BrCl2N4O3
